US04226768
[7-Chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-yl](4-methyl-1-piperazinyl)methanone oxime
This compound was obtained by reacting 7-chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine with N-methylpiperazine in tetrahydrofuran. The analytical sample was recrystallized from ethanol, mp 198°-200° C.

reactant | 7-chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine | ClC=1C=CC2=C(C(=NCC(=N2)C(=NO)[N+](=O)[O-])C2=C(C=CC=C2)F)C1 | C16H10ClFN4O3
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [7-Chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-yl](4-methyl-1-piperazinyl)methanone oxime | ClC=1C=CC2=C(C(=NCC(=N2)C(=NO)N2CCN(CC2)C)C2=C(C=CC=C2)F)C1 | C21H21ClFN5O
